US07030107B2
In a similar manner to Reference Example 4, 5-[3,5-bis(trifluoromethyl)benzyl]-7-iodo-6-oxo-2,3,4,5-tetrahydro-6H-pyrido[2,3-b][1,5]oxazocine (300 mg) was reacted with 2-chlorophenylboronic acid (133 mg) to obtain 5-[3,5-bis(trifluoromethyl)benzyl]-7-(2-chlorophenyl)-6-oxo-2,3,4,5-tetrahydro-6H-pyrido[2,3-b][1,5]oxazocine (254 mg, 87%).

reactant | 5-[3,5-bis(trifluoromethyl)benzyl]-7-iodo-6-oxo-2,3,4,5-tetrahydro-6H-pyrido[2,3-b][1,5]oxazocine | 300 mg | FC(C=1C=C(CN2C(C3=C(OCCC2)N=CC=C3I)=O)C=C(C1)C(F)(F)F)(F)F | C18H13F6IN2O2
reactant | 2-chlorophenylboronic acid | 133 mg | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
product | 5-[3,5-bis(trifluoromethyl)benzyl]-7-(2-chlorophenyl)-6-oxo-2,3,4,5-tetrahydro-6H-pyrido[2,3-b][1,5]oxazocine | 254 mg, 87% | FC(C=1C=C(CN2C(C3=C(OCCC2)N=CC=C3C3=C(C=CC=C3)Cl)=O)C=C(C1)C(F)(F)F)(F)F | C24H17ClF6N2O2
